US05225207
The procedure is as in Example 3, but starting from 2-amino-2-cyano-bicyclo[2.2.1]heptane (6.33 g), in the form of the mixture of the exo and endo racemates in a ratio of (8/1), in diethyl ether (100 cc) and acetic anhydride (4.7 cc); after recrystallization from a mixture of ethanol and water (15/85 by volume) (300 cc), 2-acetylamino-2-cyano-bicyclo[2.2.1]heptane (7.14 g) is obtained in the form of fine white crystals which melt at 164° C.

reactant | 2-amino-2-cyano-bicyclo[2.2.1]heptane | 6.33 g | NC1(C2CCC(C1)C2)C#N | C8H12N2
reactant | diethyl ether | 100 cc | C(C)OCC | C4H10O
solvent | acetic anhydride | 4.7 cc | C(C)(=O)OC(C)=O | C4H6O3
product | 2-acetylamino-2-cyano-bicyclo[2.2.1]heptane | 7.14 g | C(C)(=O)NC1(C2CCC(C1)C2)C#N | C10H14N2O
